US08207164B2
h) 5-(2-Fluoro-5-nitro-phenyl)-5-trifluoromethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine
To a solution of 5-(2-fluoro-phenyl)-5-trifluoromethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine (1.12 g, 4.05 mmol) in 12 mL concentrated sulfuric acid (95%) was added potassium nitrate (533 mg, 5.27 mmol) in two portions. The reaction mixture was stirred at rt for 30 minutes, it was then poured onto ice water and TBME was added. The layers were separated, washed with water and TBME. The combined aqueous layers were basified with solid Na2CO3 and extracted with EtOAc. The EtOAc layers were dried over MgSO4.H2O and evaporated to give 1.29 g of the title compound was a white solid.

reactant | 5-(2-fluoro-phenyl)-5-trifluoromethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine | 4.05 mmol, 1.12 g | FC1=C(C=CC=C1)C1(N=C(COCC1)N)C(F)(F)F | C12H12F4N2O
reactant | potassium nitrate | 5.27 mmol, 533 mg | [N+](=O)([O-])[O-].[K+]
reactant | TBME | CC(C)(C)OC | C5H12O
solvent | sulfuric acid | 12 mL | S(O)(O)(=O)=O | H2O4S
product | 5-(2-Fluoro-5-nitro-phenyl)-5-trifluoromethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine | 1.29 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C1(N=C(COCC1)N)C(F)(F)F | C12H11F4N3O3
